* ==========================================================================
* @part: 2N7002
* @family: mosfet
* @source: Nexperia
* @url: https://assets.nexperia.com/documents/spice-model/2N7002.prm
* @origin-file: manual/nexperia/2N7002.prm
* @retrieved: 2026-09-24
* @licence: no licence or copyright text in the vendor file (terms unknown)
* @added-by: garv.singh
* @pins: 2N7002: 1 2 3
* The complete origin file follows, unchanged.
* ==========================================================================

.SUBCKT 2N7002 1 2 3
* 1=drain  2=gate  3=source
Cgs  6 3 12.3e-12
Cgd1 6 4 27.4e-12
Cgd2 1 4 6e-12
M1 5 6 3 3 MOST1
M2 4 6 5 3 MOST2
D1 3 1 Dbody
Rd 5 1 Rtemp 2.3
Rg 2 6 15
.MODEL MOST1 NMOS (LEVEL=3 W=0.1 L=0.3e-6 Vto=2.014 Kp=3.09e-7
+                          RS=0 RD=0 UO=650 VMAX=0 XJ=0.5E-6 KAPPA=10E-2
+                          ETA=3e-6 TPG=1 IS=0 LD=0 WD=0 CGSO=0 CGDO=0
+                          CGBO=0 NFS=4.9e12 DELTA=0.1)
.MODEL MOST2 NMOS (LEVEL=3 W=0.1 L=0.3e-6 Vto=-5.69 Kp=0.315e-5 
+                          RS=1000 RD=1000 UO=650 VMAX=0 XJ=0.5E-6 KAPPA=10E-2
+                          ETA=3e-6 TPG=1 IS=0 LD=0 WD=0 CGSO=0 CGDO=0
+                          CGBO=0 NFS=0 DELTA=0.1)
.MODEL Dbody D(Is=1e-14 N=0.88 Rs=0.7 Ikf=1e3 Cjo=0 M=0.5 Vj=0.4 
+                          Bv=60 Ibv=10e-6 Tt=50e-9)
.MODEL Rtemp RES(TC1=5.61e-3 TC2=2.23e-5)
.ENDS
